US04371644
bis[2-hydroxy-3-(7,7,9,9-tetramethyl-3-octyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)propyl]adipate (Compound No. 328)
A mixture of 4.3 g of 8-(2,3-epoxypropyl)-7,7,9,9-tetramethyl-3-octyl-1,3,8-triazaspiro[4.5]decane-2,4-dione and 0.74 g of adipic acid in 20 ml of xylene was refluxed for 16 hours. After completion of the reaction, the xylene was distilled from the reaction mixture in vacuo and the residue was purified by column chromatography through silica gel eluted with ethyl acetate, giving the desired Compound No. 328 in the form of a pale yellow oil. The compound had an Rf value of 0.46 on thin-layer chromatography when developed with ethyl acetate.

reactant | 8-(2,3-epoxypropyl)-7,7,9,9-tetramethyl-3-octyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 4.3 g | O1C(CN2C(CC3(C(N(C(N3)=O)CCCCCCCC)=O)CC2(C)C)(C)C)C1 | C22H39N3O3
reactant | adipic acid | 0.74 g | C(CCCCC(=O)O)(=O)O | C6H10O4
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | bis[2-hydroxy-3-(7,7,9,9-tetramethyl-3-octyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)propyl]adipate | OC(COC(CCCCC(=O)OCC(CN1C(CC2(C(N(C(N2)=O)CCCCCCCC)=O)CC1(C)C)(C)C)O)=O)CN1C(CC2(C(N(C(N2)=O)CCCCCCCC)=O)CC1(C)C)(C)C | C50H88N6O10
